US08426411B2
4-Chloro-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (0.40 g, 2.21 mmol, Adesis) and 1-benzyl-3-hydrazinylpiperidine hydrochloride (1.39 g, 4.43 mmol) were suspended in n-BuOH (11.1 mL). The mixture was heated at about 90° C. for about 3 h and then heated at about 120° C. for about 5 h. The reaction mixture was cooled to ambient temperature and the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography eluting with a gradient of 0-5% MeOH in DCM to yield 1-(1-benzylpiperidin-3-yl)-1,6-dihydropyrazolo[3,4-d]pyrrolo[2,3-b]pyridine (0.105 g, 14%) as a brown oil: LC/MS (Table 1, Method b) Rt=1.53 min; MS m/z: 332 (M+H)+.

reactant | 4-Chloro-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 2.21 mmol, 0.40 g | ClC1=C2C(=NC=C1C=O)NC=C2 | C8H5ClN2O
reactant | 1-benzyl-3-hydrazinylpiperidine hydrochloride | 4.43 mmol, 1.39 g | Cl.C(C1=CC=CC=C1)N1CC(CCC1)NN
solvent | n-BuOH | 11.1 mL | CCCCO | C4H10O
product | 1-(1-benzylpiperidin-3-yl)-1,6-dihydropyrazolo[3,4-d]pyrrolo[2,3-b]pyridine | 0.105 g, 14% | C(C1=CC=CC=C1)N1CC(CCC1)N1N=CC=2C1=C1C(=NC2)NC=C1 | C20H21N5
